US06417192B1
A mixture of 1-methylpyrazole-4-carboxaldehyde (made as in reference 15) (18.1 g), malonic acid (17.1 g), pyridine (15 ml) and piperidine (0.2 ml) was heated to 100° C. for 1 hour. After cooling, water was added, followed by aqueous ammonia to obtain a clear solution, which was acidified to pH5 with hydrochloric acid. The resulting solid was filtered off, washed with water and dried to obtain 3-(1-methylpyrazol-4-yl)acrylic acid (18.9 g). 1H-NMR (d6-DMSO) δ 3.83 (3H, s), 6.18 (1H, d), 7.44 (1H, d), 7.83 (1H, s), 8.07 (1H, s). (APCI) M+H=153. C7H8N2O2 requires 152.

reactant | 1-methylpyrazole-4-carboxaldehyde | 18.1 g | CN1N=CC(=C1)C=O | C5H6N2O
reactant | malonic acid | 17.1 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1-methylpyrazol-4-yl)acrylic acid | 18.9 g | CN1N=CC(=C1)C=CC(=O)O | C7H8N2O2
